** 77 GHz VCO — corner: hbt_wcs  temp: -40
.control
pre_osdi /home/bthomas3/Videos/ngspice_pdk/install/lib/ngspice/r3_cmc.osdi
pre_osdi /home/bthomas3/Videos/ngspice_pdk/install/lib/ngspice/psp103_nqs.osdi
.endc

.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_wcs
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ

.temp 125

** === MIM Cap subckt ===
.subckt cap_cmim PLUS MINUS w=10e-6 l=10e-6 m=1
.param Ctot={1.5e-3*w*l*m}
C1 PLUS MINUS {Ctot}
.ends cap_cmim

** === TL Models (Z0=85 Ohm) ===
.subckt TL_85_105u IN OUT GND
C1 IN GND 0.805fF
R1 IN n1 0.582
L1 n1 n2 11.71pH
C2 n2 GND 1.61fF
R2 n2 n3 0.582
L2 n3 n4 11.71pH
C3 n4 GND 1.61fF
R3 n4 n5 0.582
L3 n5 n6 11.71pH
C4 n6 GND 1.61fF
R4 n6 n7 0.582
L4 n7 OUT 11.71pH
C5 OUT GND 0.805fF
.ends

.subckt TL_85_135u IN OUT GND
C1 IN GND 1.385fF
R1 IN n1 0.997
L1 n1 n2 20.07pH
C2 n2 GND 2.77fF
R2 n2 n3 0.997
L2 n3 n4 20.07pH
C3 n4 GND 2.77fF
R3 n4 n5 0.997
L3 n5 OUT 20.07pH
C4 OUT GND 1.385fF
.ends

** === VCO Core ===
.subckt VCO_77G OUTP OUTN VTUNE VCC VSS

XQ1 OUTP OUTN net_tail VSS npn13G2l Nx=2 le=2.5e-6
XQ2 OUTN OUTP net_tail VSS npn13G2l Nx=2 le=2.5e-6

XTLRES1 OUTP res1_end VSS TL_85_135u
XTLRES2 OUTN res2_end VSS TL_85_135u

Cvar1 OUTP net_var1 3fF
Rvar1 net_var1 VTUNE 500
Cvar2 OUTN net_var2 3fF
Rvar2 net_var2 VTUNE 500

Rtail net_tail VSS 200

XTLCHK1 VCC OUTP VSS TL_85_105u
XTLCHK2 VCC OUTN VSS TL_85_105u

Cdecap VCC VSS 3pF

.ends VCO_77G

** === Testbench ===
VCC VCC 0 PWL(0 0 0.1n 2.4)
VTUNE VTUNE 0 1.2

XVCO OUTP OUTN VTUNE VCC 0 VCO_77G

RL1 OUTP 0 500
RL2 OUTN 0 500
Ikick OUTP 0 PWL(0 0 1p 100u 10p 100u 11p 0)

.control
tran 0.1p 5n 0 0.1p

let vdiff = v(outp) - v(outn)
meas tran vosc_pp pp vdiff from=4n to=5n
meas tran t1 when vdiff=0 rise=10
meas tran t2 when vdiff=0 rise=11
let fosc = 1/(t2-t1)

echo ""
echo "========================================="
echo "  VCO RESULTS  corner=hbt_wcs  temp=125"
echo "========================================="
echo "Oscillation frequency:"
print fosc
echo "Output swing (Vpp diff):"
print vosc_pp
echo "========================================="
echo ""
.endc
.end
